* SkyWater PDK
* simple inverter

* Path to the PDK
*.include "$DELOREAN_ROOT/sky130/sky130/sky130A/libs.tech/ngspice/corners/tt.spice"
.lib "$DELOREAN_ROOT/sky130/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* the voltage sources: 
Vdd vdd gnd DC 1.8
V1 in gnd pulse(0 1.8 0p 200p 100p 1n 2n)

Xnot1 in vdd gnd out not1

.subckt not1 a vdd vss z
xm01   z a     vdd     vdd sky130_fd_pr__pfet_01v8_hvt  l=0.15  w=0.99  as=0.26235  ad=0.26235  ps=2.51   pd=2.51
xm02   z a     vss     vss sky130_fd_pr__nfet_01v8  l=0.15  w=0.495 as=0.131175 ad=0.131175 ps=1.52   pd=1.52
*xm02   z a     vss     vss sky130_fd_pr__nfet_05v0_nvt w=1e+07u l=4e+06u as=0.131175 ad=0.131175 ps=1.52   pd=1.52
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends

* simulation command: 
.tran 1ps 10ns 0 10p

.control
run
*set nolegend
plot in out
rusage
*reset
*run
*plot in out
*rusage
.endc

.end
